US07618960B2
Synthesis of 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde
A solution of pyrrolidine (18 mL) in THF (45 mL) was added dropwise to a solution of sodium bis(2-methoxyethoxy)aluminum hydride (65% solution in toluene, 56 mL) in THF (60 mL) at −5° C. or less over 15 minutes. The reaction solution was stirred at room temperature for one hour. Then, a suspension of tert-butoxide (2.10 g) in THF (15 mL) was added dropwise to the reaction solution at room temperature, and the reaction solution was stirred for 15 minutes. The above reaction solution was added dropwise to a solution of methyl 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzoate (20 g) in THF (50 mL) under ice-cooling over 30 minutes. The reaction solution was stirred at room temperature for two hours, and then a 5 N sodium hydroxide solution (150 mL) was added dropwise to the reaction solution. Ethyl acetate was added to the reaction solution, and the organic layer was separated. The organic layer was washed with a saturated ammonium chloride solution and brine in this order. The organic layer was dried over anhydrous magnesium sulfate and filtered on a silica gel pad, and then the filtrate was concentrated under reduced pressure. The residue was diluted with ethyl acetate, and the precipitated solid was collected by filtration. The resulting solid was air-dried overnight to obtain 7.10 g of the title compound. Further, the crystallization mother liquor was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate-2-propanol system) to obtain 2.65 g of the title compound.

reactant | pyrrolidine | 18 mL | N1CCCC1 | C4H9N
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 56 mL | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | tert-butoxide | 2.10 g | CC(C)([O-])C
reactant | methyl 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzoate | 20 g | COC=1C=C(C(=O)OC)C=CC1N1C=NC(=C1)C | C13H14N2O3
reactant | sodium hydroxide | 5 N, 150 mL | [OH-].[Na+]
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 7.10 g | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
